US07169777B2
1-Ethoxycarbonylmethyl-1-methyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
(1-Methyl-2,3-dihydro-1H-isoindol-1-yl)-acetic acid ethyl ester (1.0 g, 4.6 mmol) and di-tert-butyl dicarbonate (1.1 g, 5.06 mmol) were dissolved into DCM (10 mL) under nitrogen atmosphere. The solution was cooled to 0° C. followed by dropwise addition of TEA (0.71 mL, 5.06 mmol). The solution was warmed to room temperature and stirred 72 h. DCM (50 mL) was added and the solution washed with saturated sodium bicarbonate (5 mL), H2O (5 mL) and brine (5 mL). The organic phase was dried over magnesium sulfate and concentrated to a clear oil. Purification by flash chromatography (SiO2) gave the title compound as a clear oil (1.18 g, 81%). 1H NMR (CDCl3) δ 7.10–7.30 (m, 4H), 4.65–4.70 (m, 2H), 3.84–3.92 (m, 2H), 3.42–3.48 (m, 0.5H), 2.65–2.80 (m, 1.5H), 1.75 (s, 1.6H), 1.68 (s, 1.4H), 1.55 (s, 5H), 1.48 (s, 4H).

reactant | (1-Methyl-2,3-dihydro-1H-isoindol-1-yl)-acetic acid ethyl ester | 4.6 mmol, 1.0 g | C(C)OC(CC1(NCC2=CC=CC=C12)C)=O | C13H17NO2
reactant | di-tert-butyl dicarbonate | 5.06 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethoxycarbonylmethyl-1-methyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.18 g, 81% | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2C1)(C)CC(=O)OCC | C18H25NO4
